US08357694B2
This product was synthesized as described in general procedure 2 except 4-(6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate was used instead of 4-(6-(3-bromophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate and 1-(2-methoxyethyl piperazine was used instead of piperidine to give 6-(3,4-dichlorophenyl)-N-(4-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine M.p.=121-122° C. 1H NMR 400 MHz (CDCl3) δ 12.75 (br s, 3H), 11.8 (s, 1H), 8.37 (br s, 1H), 7.98 (br s, 1H), 7.76 (br s, 2H), 7.60 (m, 2H), 7.36-7.27 (m, 1H), 7.18 (s, 1H), 7.10 (d, J=7.1 Hz, 1H), 6.88 (d, J=7.9 Hz, 1H), 4.37 (br s,1H), 4.0-3.6 (br s,8H), 3.45-3.0 (m, 8H), 2.72 (s, 3H). LCMS m/e 588 (M+H).

reactant | 4-(6-(3,4-dichlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C(C(CC2C=N1)C1=CC(=C(C=C1)Cl)Cl)C=CC=C3 | C27H23Cl2N3O3S
reactant | 2-methoxyethyl piperazine | COCCN1CCNCC1 | C7H16N2O
product | 6-(3,4-dichlorophenyl)-N-(4-(2-(4-(2-methoxyethyl)piperazin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine | ClC=1C=C(C=CC1Cl)C1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC=C(C=C2)CCN2CCN(CC2)CCOC | C33H35Cl2N5O
